US07531559B2
d) Preparation of 2-methyl-5-trifluoromethyl-2H-1,2,3-triazole-4-carboxylic acid [Compound Number 1.13]
A solution of 2-methyl-5-trifluoromethyl-2H-1,2,3-triazole-4-carboxylic acid methyl ester [Compound Number 1.15] (2.09 g; 0.01 mol) and KOH (86%; 0.783 g; 1.2 eq.) in THF (50 ml) was heated at reflux temperature for 3.5 hours. The solution was evaporated, the residue was dissolved in water and acidified to pH 1-2 with HCl (1M). Evaporation of the aqueous solution followed by continuous extration in ethylacetate for 20 hours gave of Compound No 1.13 (2.11 g; 100%) as a crystalline solid.

reactant | 2-methyl-5-trifluoromethyl-2H-1,2,3-triazole-4-carboxylic acid methyl ester | 0.01 mol, 2.09 g | COC(=O)C1=NN(N=C1C(F)(F)F)C | C6H6F3N3O2
reactant | KOH | 0.783 g, 1.2 eq. | [OH-].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-methyl-5-trifluoromethyl-2H-1,2,3-triazole-4-carboxylic acid | CN1N=C(C(=N1)C(=O)O)C(F)(F)F | C5H4F3N3O2
